US05716936
A To a solution of 1.7 g of tert-butyl (2RS,4SR,5RS)-1-{2-[3-(3-benzyloxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(4-nitrophenyl)sulphonyl-2-pyrrolidinecarboxylate in 100 cm3 of ethanol is added 0.2 g of 10% palladium-on-charcoal. The suspension is stirred for twenty hours at a temperature in the region of 20° C. under a hydrogen atmosphere (130 kPa). The catalyst is separated out by filtration on Celite and the filtrate is concentrated to dryness under reduced pressure. The residue is purified by chromatography on 40 g of silica contained in a column 2.2 cm in diameter [eluent: dichloromethane/methanol (90/10 by volume)]. The fractions containing the expected product are combined and concentrated under reduced pressure. 0.95 g of (2RS,4SR,5RS)-3-(3-{2-[4-(4-aminophenyl)sulphonyl-2-tert-butoxycarbonyl-5-(2-fluorophenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid is thus obtained [Rf=0.2; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 393 K, δ in ppm): 1.55 (s, 9H: C(CH3)3); from 2.30 to 2.55 and 2.76 (2 mts, 1H each: CH2 at 3); 3.68 and 4.00 (broad d and d respectively, J=17 Hz, 1H each:COCH2N); 3.84 (mt, 1H: H4); 4.62 (t, J=8 Hz, 1H: H2); 5,72 (d, J=3 Hz, 1H: H5); 6.76 (d, J=8 Hz, 2H: H of the aromatic at 4 (H ortho to the NH2)); 7.00 to 7.70 (mt, 6H: aromatic H); 7.58 (d, J=8 Hz, 2H: H of the aromatic at 4 (H meta to the NH2)); 7.82 (broad t, J=8 Hz, 1H: H of the aromatic at 5 (H6)); 8.00 (t, J=1.5 Hz, 1H: aromatic H (H2: ortho to the COOH))].

reactant | tert-butyl (2RS,4SR,5RS)-1-{2-[3-(3-benzyloxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(4-nitrophenyl)sulphonyl-2-pyrrolidinecarboxylate | 1.7 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(CC(C1C1=C(C=CC=C1)F)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)=O | C38H37FN4O10S
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.2 g | [Pd] | Pd
product | (2RS,4SR,5RS)-3-(3-{2-[4-(4-aminophenyl)sulphonyl-2-tert-butoxycarbonyl-5-(2-fluorophenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid | 0.95 g | NC1=CC=C(C=C1)S(=O)(=O)C1CC(N(C1C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O)C(=O)OC(C)(C)C | C31H33FN4O8S
